US08835409B2
Preparation of methyl 4,6-dichloro-3-vinylpicolinate
Methyl 4,6-dichloro-3-iodopicolinate (0.56 g, 1.7 mmol), vinyltributylstannane (580 μl, 0.63 g, 2.0 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.12 g, 0.17 mmol) were combined in 1,2-dichloroethane (8 mL) and the mixture was sparged with a stream of nitrogen for 15 min. The reaction mixture was stirred at reflux for 21 h, cooled to room temperature, and diluted with ethyl acetate (15 mL). A solution of 20% KHF2 (10 ml) was added and the mixture was stirred for 45 minutes. The mixture was filtered through Celite. The organic phase was washed with water, washed with saturated sodium chloride, dried over sodium sulfate, and concentrated under vacuum. The crude product was purified by flash chromatography (SiO2, ethyl acetate/hexanes) to afford the title compound as a solid (0.30 g, 70%): 1H NMR (400 MHz, CDCl3) δ 7.50 (s, 1H), 6.82 (ddd, J=17.8, 11.5, 1.7 Hz, 1H), 5.66 (dd, J=11.4, 8.1 Hz, 1H), 5.55 (dt, J=17.7, 5.0 Hz, 1H), 3.92 (s, 3H); EIMS m/z 231.

reactant | Methyl 4,6-dichloro-3-iodopicolinate | 1.7 mmol, 0.56 g | ClC1=C(C(=NC(=C1)Cl)C(=O)OC)I | C7H4Cl2INO2
reactant | vinyltributylstannane | 2.0 mmol, 580 μl, 0.63 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.17 mmol, 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4,6-dichloro-3-vinylpicolinate | 0.30 g, 70% | ClC1=C(C(=NC(=C1)Cl)C(=O)OC)C=C | C9H7Cl2NO2
